US08030302B2
Ethyl 2-(4-fluorophenyl)-6-methyl-3-oxo-2,3-dihydropyridazine-4-carboxylate
To a suspension of 1-triphenylphosphoranylidene-2-propanone (3.18 g, 9.99 mmol) in THF (50 mL) is added diethyl ketomalonate (1.74 g, 9.99 mmol). The resulting mixture is stirred at RT for 30 min to give a clear solution. Then this solution is added to a solution of 4-fluorophenylhydrazine hydrochloride (1.62 g, 9.96 mmol) in EtOH:H2O (30 mL:30 mL). After the resulting mixture is refluxed for 1 hour, TEA (3 mL) is added and the mixture is stirred at reflux for another 1 hour. Then it is concentrated and the residue is partitioned with saturated aqueous NH4Cl (30 mL) and EtOAc (30 mL). The organic phase is separated, dried and concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAc (3:1) to give the product (1.20 g, 43% yield). MS (m/z): 277.1 (M+H).

reactant | 1-triphenylphosphoranylidene-2-propanone | 9.99 mmol, 3.18 g | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | diethyl ketomalonate | 9.99 mmol, 1.74 g | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
reactant | 4-fluorophenylhydrazine hydrochloride | 9.96 mmol, 1.62 g | Cl.FC1=CC=C(C=C1)NN
reactant | H2O | 30 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 2-(4-fluorophenyl)-6-methyl-3-oxo-2,3-dihydropyridazine-4-carboxylate | 1.20 g, 43% yield | FC1=CC=C(C=C1)N1N=C(C=C(C1=O)C(=O)OCC)C | C14H13FN2O3
